US08053439B2
Synthesis of (2-amino-5-(thiazol-2-yl)pyridin-3-yl)(3,4,5-trimethoxyphenyl)methanone
(2-Chloro-5-(thiazol-2-yl)pyridin-3-yl)(3,4,5-trimethoxyphenyl)methanone (65 mg, 0.16 mmol) as a starting material was dissolved in isopropyl alcohol (3 ml), and ammonia water (10 ml) was added thereto. The mixture was heated for 3 hours in a Steel Bomb. After completion of the reaction, the reaction mixture was vacuum concentrated, and extracted with dichloromethane (30 ml) and water (10 ml). The organic layer was washed with brine, and dried over anhydrous MgSO4. The solid substance filtered off, and the filtrate was vacuum concentrated. The resulting residue was purified by column chromatography (SiO2, n-Hex/EA=1/1) to obtain a desired yellow solid compound (24.0 mg, 38.84%).

reactant | (2-Chloro-5-(thiazol-2-yl)pyridin-3-yl)(3,4,5-trimethoxyphenyl)methanone | 0.16 mmol, 65 mg | ClC1=NC=C(C=C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=1SC=CN1 | C18H15ClN2O4S
reactant | ammonia water | 10 ml | O.N
solvent | isopropyl alcohol | 3 ml | C(C)(C)O | C3H8O
product | (2-amino-5-(thiazol-2-yl)pyridin-3-yl)(3,4,5-trimethoxyphenyl)methanone | 24.0 mg, 38.84% | NC1=NC=C(C=C1C(=O)C1=CC(=C(C(=C1)OC)OC)OC)C=1SC=CN1 | C18H17N3O4S
